Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([O:4][N:7]=[C:5]=[O:6])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][H:16]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],32.73076931684899
[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10]>>[C:1](=[C:2]1[N-:3][O+:4]=[C:5]([N:6]([H:11])[H:12])[C:7]1([H:9])[H:13])([H:8])[H:10],85.9698128978232
[C-:2](=[N+:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])[H:12].[C:1]([H:8])([H:9])([H:10])[H:11]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],10.400695401418616
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([H:15])([H:16])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([O:7][H:19])[H:17],73.5585334895563
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:2](=[C:3]([O:4][H:13])[H:12])([H:10])[H:11],80.6033688382005
[C:1]([C:6](=[C:5]=[C:2]=[N:3][O:4][H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9],97.31638492526744
[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2](/[C:3](=[N:4]\[H:12])[C:5]([O:6][H:13])=[C:7]([H:14])[H:15])[H:11])([H:8])([H:9])[H:10],66.0758761560063
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](/[C:5]#[N:6])[H:12])[H:11])([H:7])([H:8])[H:9].[N:4]([H:10])([H:13])[H:14],65.6599710896114
[C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:14])[H:15].[H:13][H:16]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],50.327580713117996
[C:1]([C@@:2]12[O:3][C@@:4]3([H:11])[C@:5]1([H:12])[O:6][C@@:7]23[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]1=[C:7]([H:13])[O:6][C@:5]1([C:4](=[O:3])[H:11])[H:12])([H:8])([H:9])[H:10],28.6490857107718
[N:1](=[C:2]=[O:3])[H:8].[O:4](/[C:5](=[N:6]/[H:10])[H:9])[H:7]>>[N:1]([C:2](=[O:3])[O:4]/[C:5](=[N:6]/[H:10])[H:9])([H:7])[H:8],34.202111736811176
[C:1]([C:2](/[N:3]=[C:4](/[O:5][H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[H:12])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],26.5200423884463
[O:1]=[C:2]([C:3]1=[C+:4][C:5]1=[C-:6][H:8])[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],0.8309251572825858
[C:1]([C:2]([O:3][H:12])=[C:4]([O-:5])[C:6](=[C+:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],9.085787327053204
[O:1]([C:2]1([H:6])[C:3]([H:7])([H:8])[C:4]1([H:9])[H:10])[H:5]>>[O:1]([C@:2]([C:3][H:7])([C:4]([H:8])([H:9])[H:10])[H:6])[H:5],66.63419203742129
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[C:2]1[C:3]([H:8])=[C:4]([H:9])[C:6]([N:5]([H:10])[H:11])=[N:7]1,94.84181135447679
[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C@:2]([C:3][H:8])([C:4]([H:9])([H:10])[H:11])[C:5]#[N:6])[H:7],70.536355307651
[O:1]([C@@:2]1([H:8])[C:3]([H:10])([H:11])[O:4][C:5]([H:9])([H:12])[N:6]1[H:13])[H:7]>>[O:1]([C:2]([C:3]([O:4]/[C:5](=[N:6]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],74.0250164006367
[H:8][H:9].[N:1]#[C:2][C:6](=[O:7])[H:10].[O:3]=[C:4]=[O:5]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6](=[O:7])[H:10])\[H:8],49.700691337844276
[H:8][H:11].[O:1]=[C:2]([C@@:3]1([H:9])[C@:4]2([H:12])[C:5]([H:13])([H:14])[C@@:6]1([H:15])[O:7]2)[H:10]>>[O:1]([C:2]([C@@:3]1([H:11])[C@@:4]2([H:12])[C:5]([H:13])([H:14])[C@:6]1([H:15])[O:7]2)([H:9])[H:10])[H:8],74.2470510568846
[C:1]([C@@:2]1([C:5](=[O:6])[N:7]([H:13])[H:14])[C:3]([H:11])([H:12])[O:4]1)([H:8])([H:9])[H:10]>>[C-:2]1=[O+:4][C:3]1([H:11])[H:12].[C:1]([C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],89.7108830687492
[C:1]([C:2](=[C:4]=[N:5][O:3][H:10])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C@@:2]([O:3][H:10])([C:4]#[N:5])[H:9])([H:6])([H:7])[H:8],42.49166350780829
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([O:4][H:13])([O:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([H:14])[H:15],104.240747028122
[C:1]([C:2]([O:3][C:4]([C:5](=[O:6])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5][O:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],80.57305463591621
[C:6](=[O:7])([H:13])[H:14].[N:1](/[C:2]([O:3][H:15])=[N:4]/[C:5]([H:10])([H:11])[H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9],64.65329903453389
[C-:3]#[O+:4].[C:1](=[O:2])([H:6])[H:7].[H:5][H:8]>>[C:1]([O:2][C:3](=[O:4])[H:8])([H:5])([H:6])[H:7],30.695315575122798
